US07645757B2
5.3. 4-(4-chlorophenyl)-6-[3-(tetrahydro-2H-pyran-2-yloxy)propyl]pyrimidine
A mixture of 3.60 g (11.73 mmol) of 1-(4-chlorophenyl)-6-(tetrahydro-2H-pyran-2-yloxy)hex-2-yn-1-one, prepared in stage 5.2., of 9.45 g (117 mmol) of formamidine hydrochloride and of 25 g (234 mmol) of sodium carbonate in suspension in 108 ml of acetonitrile and 0.1 ml of water is stirred at 40° C. for 5 hours. The mixture is subsequently taken up in 600 ml of water and 400 ml of a saturated aqueous sodium carbonate solution. The organic phase is separated by settling, washed with 200 ml of water and 200 ml of a saturated aqueous sodium chloride solution, dried over sodium sulphate and evaporated. The residue is purified by chromatography on silica gel, elution being carried out with a 70/30 mixture of n-hexane and of ethyl acetate, to produce 3.22 g (9.67 mmol) of product in the form of a yellowish oil.

reactant | 1-(4-chlorophenyl)-6-(tetrahydro-2H-pyran-2-yloxy)hex-2-yn-1-one | 11.73 mmol, 3.60 g | ClC1=CC=C(C=C1)C(C#CCCCOC1OCCCC1)=O | C17H19ClO3
reactant | formamidine hydrochloride | 117 mmol, 9.45 g | Cl.C(=N)N
solvent | acetonitrile | 108 ml | C(C)#N | C2H3N
solvent | water | 600 ml | O | H2O
solvent | sodium carbonate | 400 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 0.1 ml | O | H2O
solvent | sodium carbonate | 234 mmol, 25 g | C([O-])([O-])=O.[Na+].[Na+]
product | 4-(4-chlorophenyl)-6-[3-(tetrahydro-2H-pyran-2-yloxy)propyl]pyrimidine | 9.67 mmol, 3.22 g | ClC1=CC=C(C=C1)C1=NC=NC(=C1)CCCOC1OCCCC1 | C18H21ClN2O2
